US07112698B2
(E)-1-(4-propoxyphenyl)-3-(2,5-dimethoxyphenyl)prop-1-en-3-one (DMU-424)
To a stirred solution of 4-propoxybenzaldehyde (1 g, 6.1 mmol) and 2′,5′-dimethoxyacetophenone (1.1 g, 6.1 mmol) in methanol (15 ml) was added 50% w/v solution of aqueous sodium hydroxide (9.7 ml, 0.122 mol). The reaction mixture was stirred at room temperature for 18 h. A precipitate was isolated by filtration and subsequently recrystallised from ethanol to afford 0.97 g (49%) of pale yellow crystals. 1H-NMR (CDCl3) δ 1.0 (t, 3H), 1.8 (m, 2H), 3.7 (s, 3H), 3.8 (s, 3H), 3.9 (t, 2H), 6.9 (m, 3H), 6.9 (d, 1H) 7.15 (d, 1H), 7.25 (d, 1H), 7.5 (m, 3H), 13C-NMR (CDCl3) δ 192.59, 160.86,161.11, 153.59, 152.34, 130.07, 127.56, 22.47. Mass Spectrum m/e (M+1) 327. Anal. Calcd. for C20H2O4: C, 73.62; H, 6.75. Found C, 73.55; H, 6.88.

reactant | 4-propoxybenzaldehyde | 6.1 mmol, 1 g | C(CC)OC1=CC=C(C=O)C=C1 | C10H12O2
reactant | 2′,5′-dimethoxyacetophenone | 6.1 mmol, 1.1 g | COC1=C(C=C(C=C1)OC)C(C)=O | C10H12O3
reactant | sodium hydroxide | 0.122 mol, 9.7 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | (E)-1-(4-propoxyphenyl)-3-(2,5-dimethoxyphenyl)prop-1-en-3-one | 0.97 g, 49% | C(CC)OC1=CC=C(C=C1)\C=C\C(=O)C1=C(C=CC(=C1)OC)OC | C20H22O4
